US04285942
1-(Diethylamino-propoxyimino)cyclododecane
Starting from 18.23 g. (0.1 moles) of cyclododecanone and 24.1 g. (0.1 moles) of diethylaminopropoxyamine dihydrochloride, the title compound is prepared as in Example 13. Yield: 25.7 g. (82.77%). Hydrogen fumarate, m.p.: 97°-98° C.

reactant | cyclododecanone | 0.1 moles | C1(CCCCCCCCCCC1)=O | C12H22O
reactant | diethylaminopropoxyamine dihydrochloride | 0.1 moles | Cl.Cl.C(C)N(CC)CCCON
reactant | Hydrogen fumarate | C(\C=C\C(=O)[O-])(=O)O
product | 1-(Diethylamino-propoxyimino)cyclododecane | C(C)N(CC)CCCON=C1CCCCCCCCCCC1 | C19H38N2O
